US04001419
1'-Methyl-4-hydroxyxanthene-9-spiro-4'-piperidine hydrochloride (0.3 g.) in dry pyridine (10 ml.) is treated with excess acetic anhydride for 12 hours at room temperature. Pyridine and acetic anhydride are removed in vacuo and the residue dissolved in chloroform and treated with ethereal hydrochloric acid. The solvent is removed and the residue recrystallised from isopropanol-light petroleum to give 1'-methyl-4-acetoxyxanthene-9-spiro-4'-piperidine hydrochloride, m.p. 216°-220° C.

reactant | 1'-Methyl-4-hydroxyxanthene-9-spiro-4'-piperidine hydrochloride | 0.3 g | Cl.CN1CCC2(CC1)C1=CC=CC=C1OC=1C(=CC=CC12)O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1'-methyl-4-acetoxyxanthene-9-spiro-4'-piperidine hydrochloride | Cl.CN1CCC2(CC1)C1=CC=CC=C1OC=1C(=CC=CC12)OC(C)=O | InChI=1S/C20H21NO3.ClH/c1-14(22)23-18-9-5-7-16-19(18)24-17-8-4-3-6-15(17)20(16)10-12-21(2)13-11-20;/h3-9H,10-13H2,1-2H3;1H
